*** SPICE deck for cell AccumulatorB{sch} from library VLSI_Final_Lab
*** Created on Thu Mar 12, 2026 17:53:37
*** Last revised on Mon Mar 16, 2026 14:35:53
*** Written on Mon Mar 16, 2026 14:36:11 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT muddLib07__flops_c_1x FROM CELL muddLib07:flops_c_1x{sch}
.SUBCKT muddLib07__flops_c_1x d ph1 ph2 q setb
** GLOBAL gnd
** GLOBAL vdd
Mnmos@2 masterb ph2buf masterinb gnd N L=0.6U W=1.8U
Mnmos@3 master masterb gnd gnd N L=0.6U W=1.8U
Mnmos@4 slave ph1buf master gnd N L=0.6U W=1.8U
Mnmos@5 masterb ph2b n6 gnd N L=0.6U W=1.2U
Mnmos@6 n6 master gnd gnd N L=0.6U W=1.2U
Mnmos@7 n8 slaveb gnd gnd N L=0.6U W=1.2U
Mnmos@8 slaveb slave gnd gnd N L=0.6U W=1.8U
Mnmos@10 slave ph1b n8 gnd N L=0.6U W=1.2U
Mnmos@11 q slaveb gnd gnd N L=0.6U W=2.1U
Mnmos@17 masterinb setb gnd gnd N L=0.6U W=1.8U
Mnmos@19 masterinb d gnd gnd N L=0.6U W=1.8U
Mnmos@22 ph2b ph2 gnd gnd N L=0.6U W=1.8U
Mnmos@25 ph2buf ph2b gnd gnd N L=0.6U W=1.8U
Mnmos@26 ph1buf ph1b gnd gnd N L=0.6U W=1.8U
Mnmos@27 ph1b ph1 gnd gnd N L=0.6U W=1.8U
Mpmos@2 masterinb ph2b masterb vdd P L=0.6U W=1.8U
Mpmos@3 vdd masterb master vdd P L=0.6U W=2.7U
Mpmos@4 master ph1b slave vdd P L=0.6U W=1.8U
Mpmos@5 n7 ph2buf masterb vdd P L=0.6U W=1.2U
Mpmos@6 vdd master n7 vdd P L=0.6U W=1.2U
Mpmos@7 vdd slaveb n9 vdd P L=0.6U W=1.2U
Mpmos@8 vdd slave slaveb vdd P L=0.6U W=2.7U
Mpmos@10 n9 ph1buf slave vdd P L=0.6U W=1.2U
Mpmos@11 vdd slaveb q vdd P L=0.6U W=3U
Mpmos@16 net@432 d masterinb vdd P L=0.6U W=3.6U
Mpmos@18 vdd setb net@432 vdd P L=0.6U W=7.2U
Mpmos@21 vdd ph1 ph1b vdd P L=0.6U W=2.7U
Mpmos@22 vdd ph2 ph2b vdd P L=0.6U W=2.7U
Mpmos@24 vdd ph1b ph1buf vdd P L=0.6U W=2.7U
Mpmos@25 vdd ph2b ph2buf vdd P L=0.6U W=2.7U
.ENDS muddLib07__flops_c_1x

*** SUBCIRCUIT Final_Project__inv_1x FROM CELL Final_Project:inv_1x{sch}
.SUBCKT Final_Project__inv_1x a y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 y a gnd gnd N_1u L=0.6U W=2.1U
Mpmos@0 vdd a y vdd P_1u L=0.6U W=3U
.ENDS Final_Project__inv_1x

*** SUBCIRCUIT Final_Project__nand2_1x FROM CELL Final_Project:nand2_1x{sch}
.SUBCKT Final_Project__nand2_1x a b y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 y b net@5 gnd N_1u L=0.6U W=3.6U
Mnmos@1 net@5 a gnd gnd N_1u L=0.6U W=3.6U
Mpmos@0 vdd b y vdd P_1u L=0.6U W=3.6U
Mpmos@1 vdd a y vdd P_1u L=0.6U W=3.6U
.ENDS Final_Project__nand2_1x

.global gnd vdd

*** TOP LEVEL CELL: AccumulatorB{sch}
Xflops_c_@1 B0 net@38 net@38 AluB0 net@19 muddLib07__flops_c_1x
Xflops_c_@2 B1 net@38 net@38 AluB1 net@19 muddLib07__flops_c_1x
Xflops_c_@3 B2 net@38 net@38 AluB2 net@19 muddLib07__flops_c_1x
Xflops_c_@4 B3 net@38 net@38 AluB3 net@19 muddLib07__flops_c_1x
Xinv_1x@1 ClearB net@19 Final_Project__inv_1x
Xnand2_1x@2 LatchB MainClock net@38 Final_Project__nand2_1x

* Spice Code nodes in cell cell 'AccumulatorB{sch}'
VDD vdd 0 DC 5
VSS gnd 0 DC 0
VCLK MainClock 0 PULSE(0 5 0ns 1ns 1ns 10ns 20ns)
VLATCH LatchB 0 PULSE(0 5 5ns 1ns 1ns 40ns 80ns)
VCLEAR ClearB 0 PULSE(5 0 0ns 1ns 1ns 20ns 200ns)
VB0 B0 0 PULSE(0 5 10ns 1ns 1ns 40ns 80ns)
VB1 B1 0 PULSE(0 5 20ns 1ns 1ns 60ns 120ns)
VB2 B2 0 PULSE(0 5 30ns 1ns 1ns 80ns 160ns)
VB3 B3 0 PULSE(0 5 40ns 1ns 1ns 100ns 200ns)
.tran 1ns 200ns
.model n NMOS LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02
.model p PMOS LEVEL=1 VTO=-0.7 KP=50u LAMBDA=0.02
.model n_1u NMOS LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02
.model p_1u PMOS LEVEL=1 VTO=-0.7 KP=50u LAMBDA=0.02
.end
.END
