*** SPICE deck for cell Ring_Counter{sch} from library VLSI_Final_Lab
*** Created on Sat Mar 14, 2026 14:41:35
*** Last revised on Mon Mar 16, 2026 15:33:32
*** Written on Mon Mar 16, 2026 15:33:43 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT muddLib07__flops_c_1x FROM CELL muddLib07:flops_c_1x{sch}
.SUBCKT muddLib07__flops_c_1x d ph1 ph2 q setb
** GLOBAL gnd
** GLOBAL vdd
Mnmos@2 masterb ph2buf masterinb gnd N L=0.6U W=1.8U
Mnmos@3 master masterb gnd gnd N L=0.6U W=1.8U
Mnmos@4 slave ph1buf master gnd N L=0.6U W=1.8U
Mnmos@5 masterb ph2b n6 gnd N L=0.6U W=1.2U
Mnmos@6 n6 master gnd gnd N L=0.6U W=1.2U
Mnmos@7 n8 slaveb gnd gnd N L=0.6U W=1.2U
Mnmos@8 slaveb slave gnd gnd N L=0.6U W=1.8U
Mnmos@10 slave ph1b n8 gnd N L=0.6U W=1.2U
Mnmos@11 q slaveb gnd gnd N L=0.6U W=2.1U
Mnmos@17 masterinb setb gnd gnd N L=0.6U W=1.8U
Mnmos@19 masterinb d gnd gnd N L=0.6U W=1.8U
Mnmos@22 ph2b ph2 gnd gnd N L=0.6U W=1.8U
Mnmos@25 ph2buf ph2b gnd gnd N L=0.6U W=1.8U
Mnmos@26 ph1buf ph1b gnd gnd N L=0.6U W=1.8U
Mnmos@27 ph1b ph1 gnd gnd N L=0.6U W=1.8U
Mpmos@2 masterinb ph2b masterb vdd P L=0.6U W=1.8U
Mpmos@3 vdd masterb master vdd P L=0.6U W=2.7U
Mpmos@4 master ph1b slave vdd P L=0.6U W=1.8U
Mpmos@5 n7 ph2buf masterb vdd P L=0.6U W=1.2U
Mpmos@6 vdd master n7 vdd P L=0.6U W=1.2U
Mpmos@7 vdd slaveb n9 vdd P L=0.6U W=1.2U
Mpmos@8 vdd slave slaveb vdd P L=0.6U W=2.7U
Mpmos@10 n9 ph1buf slave vdd P L=0.6U W=1.2U
Mpmos@11 vdd slaveb q vdd P L=0.6U W=3U
Mpmos@16 net@432 d masterinb vdd P L=0.6U W=3.6U
Mpmos@18 vdd setb net@432 vdd P L=0.6U W=7.2U
Mpmos@21 vdd ph1 ph1b vdd P L=0.6U W=2.7U
Mpmos@22 vdd ph2 ph2b vdd P L=0.6U W=2.7U
Mpmos@24 vdd ph1b ph1buf vdd P L=0.6U W=2.7U
Mpmos@25 vdd ph2b ph2buf vdd P L=0.6U W=2.7U
.ENDS muddLib07__flops_c_1x

*** SUBCIRCUIT Final_Project__inv_1x FROM CELL Final_Project:inv_1x{sch}
.SUBCKT Final_Project__inv_1x a y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 y a gnd gnd N_1u L=0.6U W=2.1U
Mpmos@0 vdd a y vdd P_1u L=0.6U W=3U
.ENDS Final_Project__inv_1x

*** SUBCIRCUIT muddLib07__xor2_1x FROM CELL muddLib07:xor2_1x{sch}
.SUBCKT muddLib07__xor2_1x a b y
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 net@3 a gnd gnd N L=0.6U W=4.2U
Mnmos@1 net@4 ab gnd gnd N L=0.6U W=4.2U
Mnmos@2 y b net@3 gnd N L=0.6U W=4.2U
Mnmos@3 y bb net@4 gnd N L=0.6U W=4.2U
Mnmos@4 bb b gnd gnd N L=0.6U W=1.8U
Mnmos@5 ab a gnd gnd N L=0.6U W=1.8U
Mpmos@0 net@7 b y vdd P L=0.6U W=6U
Mpmos@1 vdd ab net@7 vdd P L=0.6U W=6U
Mpmos@2 net@8 bb y vdd P L=0.6U W=6U
Mpmos@3 vdd a net@8 vdd P L=0.6U W=6U
Mpmos@4 vdd b bb vdd P L=0.6U W=2.7U
Mpmos@5 vdd a ab vdd P L=0.6U W=2.7U
.ENDS muddLib07__xor2_1x

.global gnd vdd

*** TOP LEVEL CELL: Ring_Counter{sch}
Xflops_c_@0 net@66 net@1 net@1 net@62 net@29 muddLib07__flops_c_1x
Xflops_c_@1 net@62 net@5 net@5 net@64 net@29 muddLib07__flops_c_1x
Xflops_c_@2 net@64 net@9 net@9 net@104 net@29 muddLib07__flops_c_1x
Xflops_c_@3 net@104 net@13 net@13 net@74 net@29 muddLib07__flops_c_1x
Xinv_1x@8 Phase_Count net@1 Final_Project__inv_1x
Xinv_1x@9 Phase_Count net@5 Final_Project__inv_1x
Xinv_1x@10 Phase_Count net@9 Final_Project__inv_1x
Xinv_1x@11 Phase_Count net@13 Final_Project__inv_1x
Xinv_1x@12 net@74 net@66 Final_Project__inv_1x
Xinv_1x@13 net@62 net@92 Final_Project__inv_1x
Xinv_1x@14 Clear net@29 Final_Project__inv_1x
Xxor2_1x@0 net@74 net@92 Phase0 muddLib07__xor2_1x
Xxor2_1x@1 net@62 net@64 Phase1 muddLib07__xor2_1x
Xxor2_1x@2 net@64 net@104 Phase2 muddLib07__xor2_1x
Xxor2_1x@3 net@104 net@74 Phase3 muddLib07__xor2_1x

* Spice Code nodes in cell cell 'Ring_Counter{sch}'
VDD vdd 0 DC 5
VSS gnd 0 DC 0
VCLK Phase_Count 0 PULSE(0 5 0ns 0.1ns 0.1ns 10ns 20ns)
VCLEAR Clear 0 PULSE(5 0 0ns 0.1ns 0.1ns 10ns 200ns)
C0 Phase0 0 10f
C1 Phase1 0 10f
C2 Phase2 0 10f
C3 Phase3 0 10f
.tran 1ns 200ns
.model n NMOS LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02
.model p PMOS LEVEL=1 VTO=-0.7 KP=50u LAMBDA=0.02
.model n_1u NMOS LEVEL=1 VTO=0.7 KP=120u LAMBDA=0.02
.model p_1u PMOS LEVEL=1 VTO=-0.7 KP=50u LAMBDA=0.02
.end
.END
