*** SPICE deck for cell test_inverters{sch} from library lab4
*** Created on Sun Mar 01, 2026 23:50:29
*** Last revised on Mon Mar 02, 2026 00:29:39
*** Written on Mon Mar 02, 2026 17:53:09 by Electric VLSI Design System, version 9.08
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF

*** SUBCIRCUIT lab4__inverter_1 FROM CELL inverter_1{sch}
.SUBCKT lab4__inverter_1 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=1.8U
Mpmos@0 out in vdd vdd PMOS L=1.8U W=3.6U
.ENDS lab4__inverter_1

*** SUBCIRCUIT lab4__inverter_2 FROM CELL inverter_2{sch}
.SUBCKT lab4__inverter_2 in out
** GLOBAL gnd
** GLOBAL vdd
Mnmos@0 out in gnd gnd NMOS L=1.8U W=7.2U
Mpmos@0 out in vdd vdd PMOS L=1.8U W=14.4U
.ENDS lab4__inverter_2

.global gnd vdd

*** TOP LEVEL CELL: test_inverters{sch}
Xinverter@0 vin vout1 lab4__inverter_1
Xinverter@1 vin vout2 lab4__inverter_2

* Spice Code nodes in cell cell 'test_inverters{sch}'
vdd vdd 0 DC 5
vin vin 0 DC 0
.dc vin 0 5 1m
.END
